US07384970B2
(S)—N-{3-Cyclohexyl-1-[2-(6-fluoro-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide.
Following the procedures of Example 3, except using m-anisoyl chloride, (S)-2-amino-4-cyclohexyl-butyric acid, ethanolamine and 6-fluoroindoline as starting materials, the title compound was prepared in 40% yield. The final material was purified by reverse phase preparative HPLC using TFA as a modifier. The final compound is therefore a partial TFA salt and the properties are reported for the material as it appeared after solvent removal: 1H NMR (CDCl3, 400 MHz) δ 0.72-0.86 (m, 2H), 1.03-1.28 (m, 6H), 1.58-1.69 (m, 6H), 1.85-1.96 (m, 1H), 2.89 (dd, 2H, J1=J2=8.1), 3.19 (dd, 2H, J1=J2=6.0), 3.43 (dd, 2H, J1=J2=8.4), 3.37-3.47 (m, 1H), 3.53-3.62 (m, 1H), 3.84 (s, 3H), 4.64 (dd, 1H, J1=7.0, J2=14.1), 6.16 (d, 1H, J=10.2), 6.26-6.33 (m, 1H), 6.92 (dd, 1H, J1=J2=6.7), 7.02-7.07 (m, 2H), 7.12-7.19 (m, 2H), 7.26-7.39 (m, 3H); HPLC-MS calcd. for C28H36FN3O3 (M+H+) 482.3, found 482.5.

reactant | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | (S)-2-amino-4-cyclohexyl-butyric acid | N[C@H](C(=O)O)CCC1CCCCC1 | C10H19NO2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | 6-fluoroindoline | FC1=CC=C2CCNC2=C1 | C8H8FN
product | (S)—N-{3-Cyclohexyl-1-[2-(6-fluoro-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide | 40% yield | C1(CCCCC1)CC[C@@H](C(NCCN1CCC2=CC=C(C=C12)F)=O)NC(C1=CC(=CC=C1)OC)=O | C28H36FN3O3
